US07560481B2
2-morpholin-4-ylethyl methanesulfonate
A solution of 4-(2-hydroxylethyl)-morpholine (Aldrich, 5.1 mL, 42 mmol), triethylamine (17 mL, 124 mmol), and methanesulfonyl chloride (4.8 mL, 62 mmol) in 100 mL THF were processed as described in Example 1C to give the crude material which was used directly in the next reaction.

reactant | 4-(2-hydroxylethyl)-morpholine | 42 mmol, 5.1 mL | OCCN1CCOCC1 | C6H13NO2
reactant | triethylamine | 124 mmol, 17 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 62 mmol, 4.8 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-morpholin-4-ylethyl methanesulfonate | CS(=O)(=O)OCCN1CCOCC1 | C7H15NO4S
